US05607956
4 -Bromo-1,3,5-trimethylpyrazole
4-Bromo-3,5-dimethylpyrazole (10 g) in dry dimethylformamide (50 ml) was added to a stirred suspension of sodium hydride (1.8 g) in dry dimethylformamide at 0° C. When the evolution of hydrogen was complete, iodomethane (8.9 g) was added dropwise. The mixture was allowed to warm to room temperature and after 30 minutes saturated aqueous sodium hydrogen carbonate (5 ml) was added. Following evaporation under high vacuum, the residue was purified by column chromatography to give the title compound.

reactant | 4-Bromo-3,5-dimethylpyrazole | 10 g | BrC=1C(=NNC1C)C | C5H7BrN2
reactant | sodium hydride | 1.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | iodomethane | 8.9 g | IC | CH3I
reactant | sodium hydrogen carbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4 -Bromo-1,3,5-trimethylpyrazole | BrC=1C(=NN(C1C)C)C | C6H9BrN2
